US04876354
39 ml (60 mmol) of a 1.55 molar n-butyllithium/hexane solution were added dropwise to a solution of 5.17 g (30 mmol) of N-(3-methylbenzyl)-imidazole and 3.49 g (30 mmol) of TMEDA in 60 ml of absolute THF at -70° C. The mixture was stirred for 30 minutes at about -70° C., after which a solution of 3.80 g (33 mmol) of 75% strength pivalaldehyde in 30 ml of absolute THF was added dropwise at about -70° C. in the course of 20 minutes, stirring was continued for 20 minutes at about -70° C. and the mixture was allowed to warm up to room temperature in the course of 2 hours. Thereafter, water was added, while cooling, and the resulting mixture was extracted with ether. The residue (9.3 g) from the ether extract was crystallized from a diisopropyl ether/hexane mixture. This gave 2.2 g of crystals, which consisted of about 90% of a by-product, 1-(3-methylbenzyl)-2-(1-hydroxy-2,2-dimethylprop-1-yl)-imidazole. The residue from the mother liquor was recrystallized from a diisopropyl ether/acetonitrile solution, and the crystalline product isolated in this procedure was then recrystallized twice from acetonitrile. 0.64 g (=8.3% of theory) of pure 1-(1-imidazolyl)-1-(3-tolyl)-3,3-dimethylbutan-2-ol of melting point 126° C. was obtained in this manner.

reactant | n-butyllithium hexane | 1.55 molar | C(CCC)[Li].CCCCCC
reactant | N-(3-methylbenzyl)-imidazole | 30 mmol, 5.17 g | CC=1C=C(CN2C=NC=C2)C=CC1 | C11H12N2
reactant | TMEDA | 30 mmol, 3.49 g | CN(C)CCN(C)C | C6H16N2
reactant | pivalaldehyde | C(C(C)(C)C)=O | C5H10O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(1-imidazolyl)-1-(3-tolyl)-3,3-dimethylbutan-2-ol | 0.64 g, 8.3% | N1(C=NC=C1)C(C(C(C)(C)C)O)C=1C=C(C=CC1)C | C16H22N2O
